US06939928B1
(1) Synthesis of 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene
In a 500 ml three-necked flask purged with nitrogen, 9.72 g (58.6 mmol, 1 eq) of fluorene and 19.61 g (134 mmol, 2.3 eq) of 2,5-dimethyl-2,5-hexanediol were placed at room temperature. Then, 85 ml of dehydrated dichloromethane was added. After stirring by a magnetic stirrer, the mixture was cooled to −8° C. with an ice bath (light brown slurry). To the slurry, 38.9 g (292 mmol, 5.0 eq) of pulverized anhydrous aluminum chloride was added over a period of 70 minutes, followed by stirring at 0° C. for 2 hours. The ice bath was removed, and the solution was stirred at room temperature for 19 hours (dark brown solution). After disappearance of fluorene was confirmed by gas chromatography, the dark brown solution was poured into 150 ml of ice water to perform quenching (yellowish brown slurry). After the soluble component was extracted with 500 ml of diethyl ether, the organic phase was neutralized with a saturated sodium hydrogencarbonate aqueous solution and washed with water. The dispensed organic phase was dried over MgSO4, then the MgSO4 was filtered off, and from the filtrate the solvent was vacuum distilled off by a rotary evaporator. The residue was transferred onto a Kiriyama funnel, washed 6 times with 10 ml of hexane and vacuum dried to obtain a white powder (12.0 g, yield: 53%)

reactant | fluorene | 58.6 mmol, 9.72 g, 1 eq | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 2,5-dimethyl-2,5-hexanediol | 134 mmol, 19.61 g, 2.3 eq | CC(C)(CCC(C)(O)C)O | C8H18O2
reactant | aluminum chloride | 292 mmol, 38.9 g, 5.0 eq | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
product | 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene | 12.0 g, yield: 53% | CC1(CCC(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(CCC5(C)C)(C)C)(C)C)C | C29H38
